US08030354B2
6,6-Dimethyl-1-cyclohexen-1-yl trifluoromethanesulfonate (66.21A).
To a solution of 2,2-dimethylcyclohexanone (2.00 g, 16 mmol, commercially available from Aldrich) in THF (35 mL) at −78° C. was added dropwise LDA (9 mL, 18 mmol, 2.0 M). The resulting solution was stirred at −78° C. for 20 minutes. A solution of N-phenyl-bis(trifluoromethane sulfonimide) (6 g, 17 mmol) in THF (15 mL) was then added slowly at −78° C. The reaction mixture was allowed to warm to 23° C. over 3 hours and the reaction was then concentrated in vacuo. The reaction was diluted with brine and extracted three times with EtOAc. After drying over anhydrous magnesium sulfate and filtering, the organic solvent was removed under reduced pressure and the product was then purified on silica gel (0-10% EtOAc in hexanes) 66.21A as a clear oil (4.1 g, 100%).

reactant | 2,2-dimethylcyclohexanone | CC1(C(CCCC1)=O)C | C8H14O
reactant | LDA | 18 mmol, 2.0 M, 9 mL | [Li+].CC(C)[N-]C(C)C
reactant | N-phenyl-bis(trifluoromethane sulfonimide) | 17 mmol, 6 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 6,6-Dimethyl-1-cyclohexen-1-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCCCC1(C)C)(F)F | C9H13F3O3S
